US05308830
Cyclobutanemethanol (24.9 g; 0.287 mol) and methanesulfonyl chloride (35.3 g; 0.302 mol) in dry ether (250 ml) was cooled to -20° C. under dry nitrogen. Triethylamine (44 ml; 0.32 mol) was added dropwise over 15 min with external cooling so that the reaction temperature remained below -5° C. The reaction mixture was allowed to warm to room temperature over 1 h and then filtered. The remaining solid was washed with ether. The ether solutions were combined and the ether evaporated, to afford crude cyclobutylmethyl methanesulfonate (48.75 g) as a pale yellow liquid, which was used in the next step without further purification. NMR - d(CDCl3 ; 60 MHz) 1.6-2.9 (7H, m), 3.0 (3H, s) and 4.1 (2H, d, J=7 Hz).

reactant | Cyclobutanemethanol | 0.287 mol, 24.9 g | C1(CCC1)CO | C5H10O
reactant | methanesulfonyl chloride | 0.302 mol, 35.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 0.32 mol, 44 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 250 ml | CCOCC | C4H10O
product | cyclobutylmethyl methanesulfonate | 48.75 g | CS(=O)(=O)OCC1CCC1 | C6H12O3S
